US07514202B2
Synthesis of trimethylammonium 1,1,3,3,3-pentafluoro-2-(pivaloyloxy)propanesulfonate (PAG29)
Triethylamine was dissolved in cold water. To the solution, hydrochloric acid was added, and sodium 1,1,3,3,3-pentafluoro-2-(pivaloyloxy)propanesulfonate prepared in Synthesis Example 27 and dichloromethane were added, whereupon the mixture was stirred. The organic layer was separated and washed with water. From the organic layer as washed, the dichloromethane was distilled off in vacuum. Diethyl ether was added to the residue for recrystallization. The crystals were filtered and dried, obtaining the target compound in a yield of 75%.

reactant | Triethylamine | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | Cl | ClH
reactant | sodium 1,1,3,3,3-pentafluoro-2-(pivaloyloxy)propanesulfonate | FC(C(C(F)(F)F)OC(C(C)(C)C)=O)(S(=O)(=O)[O-])F.[Na+]
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
product | trimethylammonium 1,1,3,3,3-pentafluoro-2-(pivaloyloxy)propanesulfonate | yield of 75% | FC(C(C(F)(F)F)OC(C(C)(C)C)=O)(S(=O)(=O)[O-])F.C[NH+](C)C | InChI=1S/C8H11F5O5S.C3H9N/c1-6(2,3)5(14)18-4(7(9,10)11)8(12,13)19(15,16)17;1-4(2)3/h4H,1-3H3,(H,15,16,17);1-3H3
